US05654299
(S) -N-[2-(3,4-Dichlorophenyl)-4-[4-(2-fluoropyrid-3-yl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative preparation), except using 4-(2-fluoropyrid-3-yl)piperidine and (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide, the title compound was prepared. Conversion to the hydrochloride salt gave a white solid; mp 74°-95° C.; MS: 514; NMR (CD3OD): 1.9-2.3 (b, 6), 2.7-3.2 (m, 9), 3.4-3.9 (m, 4), 7.0-7.2 (m, 3), 7.3-7.4 (m, 5), 7.6 (m, 2), 7.8-7.9 (t, J=8, 1), 8.1 (d, J=4, 1). Analysis for C28H30Cl2FN3O·1.0 HCl·0.5 H2O: Calculated: C, 60.06; H, 5.76; N, 7.50. Found: C, 60.13; H, 6.06; N, 7.02.

reactant | 4-(2-fluoropyrid-3-yl)piperidine | FC1=NC=CC=C1C1CCNCC1 | C10H13FN2
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
product | (S) -N-[2-(3,4-Dichlorophenyl)-4-[4-(2-fluoropyrid-3-yl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C=1C(=NC=CC1)F | InChI=1S/C28H30Cl2FN3O.ClH/c1-33(28(35)21-6-3-2-4-7-21)19-23(22-9-10-25(29)26(30)18-22)13-17-34-15-11-20(12-16-34)24-8-5-14-32-27(24)31;/h2-10,14,18,20,23H,11-13,15-17,19H2,1H3;1H/t23-;/m1./s1
